US05192776
A chilled (ice bath temperature) solution of 10.0 g of 4-(2,3,4,5,6-pentafluorophenoxy)piperidine and 5.72 ml of triethylamine in 100 ml of dichloromethane was treated, dropwise, with a solution of 3.26 ml of chloroacetyl chloride in 40 ml of dichloromethane, and then stirred at room temperature for four hours. The reaction mixture was then washed with water followed by a saturated solution of sodium chloride, dried over anhydrous magnesium sulfate, filtered and concentrated to afford 13.35 g of 1-(2-chloroacetyl)-4-(2,3,4,5,6-pentafluorophenoxy)piperidine as an oil.

reactant | 4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 10.0 g | FC1=C(OC2CCNCC2)C(=C(C(=C1F)F)F)F | C11H10F5NO
reactant | triethylamine | 5.72 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 3.26 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-(2-chloroacetyl)-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 13.35 g | ClCC(=O)N1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F | C13H11ClF5NO2
